US08563575B2
A mixture of 9-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-7,9-dihydro-8H-purin-8-one (56 mg), iodoethane (20 μL) and cesium carbonate (120 mg) in DMF (3 ml) was stirred at 50° C. for 4 h. The mixture was poured into water, and the mixture was extracted with AcOEt. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residual crystals were recrystallized from AcOEt to give 7-ethyl-9-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-7,9-dihydro-8H-purin-8-one (40 mg) as white crystals.

reactant | 9-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-7,9-dihydro-8H-purin-8-one | 56 mg | CN1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)N2C1=NC=NC=C1NC2=O | C19H14N6O2
reactant | iodoethane | 20 μL | ICC | C2H5I
reactant | cesium carbonate | 120 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 7-ethyl-9-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-7,9-dihydro-8H-purin-8-one | 40 mg | C(C)N1C(N(C2=NC=NC=C12)C1=CC=C(C=C1)OC1=NC2=C(N1C)C=CC=C2)=O | C21H18N6O2
